US04725610
To a stirred solution of 4-acetyl-5-methyl-2-phenyloxazole (12.0 g) in chloroform (100 ml) was added at 50° C. a solution of bromine (10.5 g) in chloroform (10 ml). The mixture was further heated at 55° C. for 30 minutes and poured into saturated aqueous sodium bicarbonate solution (500 ml). The chloroform layer was separated and the aqueous layer was extracted with chloroform. The conbined chloroform layer was washed with water and dried (MgSO4). Evaporation of the solvent gave 4-bromoacetyl-5-methyl-2-phenyloxazole as crystals (14.5 g, 86.3%). Recrystallization from ethyl ether-hexane gave colorless rods, mp 88°-89° C.

reactant | 4-acetyl-5-methyl-2-phenyloxazole | 12.0 g | C(C)(=O)C=1N=C(OC1C)C1=CC=CC=C1 | C12H11NO2
reactant | bromine | 10.5 g | BrBr | Br2
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-bromoacetyl-5-methyl-2-phenyloxazole | 14.5 g, 86.3% | BrCC(=O)C=1N=C(OC1C)C1=CC=CC=C1 | C12H10BrNO2
